US08791132B2
To a solution of 9-bromo-6-chloro-2,3,4,5-tetrahydro-2-methyl-1H-pyrido[4,3-b]indole (500 mg, 1.67 mmol) in DMF (5 mL), sodium hydride (200 mg, 5.0 mmol) was added. After stirring at 60° C. for 30 min., 2-(6-methylpyridin-3-yl)ethyl 4-methylbenzenesulfonate (1.2 g, 4.2 mmol) was added to the reaction mixture and stirred at the same temperature for 1 h. The progress of reaction was monitored by TLC and LCMS. The reaction mixture was quenched with water and extracted with EtOAc. The organic layer was washed with water, dried over anhydrous sodium sulfate and concentrated to obtain the crude product, which was purified by reverse phase HPLC to obtain the 9-bromo-6-chloro-2,3,4,5-tetrahydro-2-methyl-5-(2-(6-methylpyridin-3-yl)ethyl)-1H-pyrido[4,3-b]indole. 1H NMR (CD3OD, TFA salt) δ (ppm): 8.39 (s, 1H), 8.12 (d, 1H), 7.66 (d, 1H), 7.26 (d, 1H), 7.1 (d, 1H),4.67 (m, 4H), 3.7 (m, 2H), 3.27 (t, 2H), 3.18 (m, 2H), 3.15 (s, 3H), 2.69 (s, 3H).

reactant | 9-bromo-6-chloro-2,3,4,5-tetrahydro-2-methyl-1H-pyrido[4,3-b]indole | 1.67 mmol, 500 mg | BrC=1C=2C3=C(NC2C(=CC1)Cl)CCN(C3)C | C12H12BrClN2
reactant | sodium hydride | 5.0 mmol, 200 mg | [H-].[Na+]
reactant | 2-(6-methylpyridin-3-yl)ethyl 4-methylbenzenesulfonate | 4.2 mmol, 1.2 g | CC1=CC=C(C=C1)S(=O)(=O)OCCC=1C=NC(=CC1)C | C15H17NO3S
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 9-bromo-6-chloro-2,3,4,5-tetrahydro-2-methyl-5-(2-(6-methylpyridin-3-yl)ethyl)-1H-pyrido[4,3-b]indole | BrC=1C=2C3=C(N(C2C(=CC1)Cl)CCC=1C=NC(=CC1)C)CCN(C3)C | C20H21BrClN3
